US07244721B2
Step 2. Synthesis of N-t-butoxycarbonyl cis-4-mesyloxy-L-proline Benzyl Ester (Boc-Pro(4-cis-OMs)-OBn)
To a solution of Boc-Pro(4-cis-OH)-OBn (8.45 g, 26.3 mmol) in pyridine (65 mL) at 0° C., was added methanesulfonyl chloride (3.4 mL, 44 mmol) dropwise over 7 min. The reaction mixture was allowed to warm to room temperature over 2 h, then stirred overnight. A solution of 10% water in pyridine (20 mL) was added over 15 min and the reaction mixture was concentrated. The residue was dissolved in water and extracted with ethyl acetate (2×200 mL). The combined organic layers were washed with water (2×50 mL) saturated aqueous sodium bicarbonate (50 mL) and saturated aqueous sodium chloride (50 mL), dried (sodium sulfate), filtered and concentrated. The resulting residue was dissolved in toluene (100 mL) and concentrated to remove traces of pyridine. The residue was dried in vacuo for 30 min to afford the title compound (10.7 g, 102%), then used in the next step without purification.

reactant | tert-butoxycarbonyl cis-4-hydroxy-L-proline Benzyl Ester | 26.3 mmol, 8.45 g | C(C1=CC=CC=C1)OC([C@H]1N(C[C@H](C1)O)C(=O)OC(C)(C)C)=O | C17H23NO5
reactant | methanesulfonyl chloride | 44 mmol, 3.4 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | pyridine | 65 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-t-butoxycarbonyl cis-4-mesyloxy-L-proline Benzyl Ester | 10.7 g, 102% | C(C1=CC=CC=C1)OC([C@H]1N(C[C@H](C1)OS(=O)(=O)C)C(=O)OC(C)(C)C)=O | C18H25NO7S
